US05616787
Preparation of 1-octyl-2,4,6-trimethylbenzene
A 750 ml flask is charged with 6.7 g (50 mmol) of anhydrous aluminium chloride and 120.2 g (1 mol) of mesitylene. 148.7 g (1 mol) of 1-chloroctane are added dropwise to this mixture over 2 h at room temperature. HCl gas slowly evolves. The dark orange emulsion is stirred for c. 30 h at room temperature and then poured into water and extracted with toluene. The organic phase is isolated and concentrated on a rotary evaporator. The resultant oil is fractionated under vacuum to give, at 88°-92° C. and 1.8 mbar, 80.6 g of the title product as a colourless liquid. Gas chromatography (GC) and 1H-NMR spectrum analysis show that mono-n-octylmesitylene is obtained in 90% purity. The distillation residue contains mainly dioctylmesitylene.

reactant | aluminium chloride | 50 mmol, 6.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | mesitylene | 1 mol, 120.2 g | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | 1-chloroctane | 1 mol, 148.7 g | ClCCCCCCCC | C8H17Cl
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 1-octyl-2,4,6-trimethylbenzene | 80.6 g | C(CCCCCCC)C1=C(C=C(C=C1C)C)C | C17H28
